US07612114B2
4-Benzothiazol-2-yl-3-{ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}phenol
Synthesized from acetic acid 4-bromo-3-{ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}phenyl ester (50 mg) and 2-tributylstannylbenzothiazole (100 mg) according to an analogous synthetic method to Example 19, the title compound (3 mg) was obtained.

reactant | acetic acid 4-bromo-3-{ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}phenyl ester | 50 mg | BrC1=C(C=C(C=C1)OC(C)=O)N(CC1=CC(=C(C=C1)OCCN1CCCCC1)F)CC | C24H30BrFN2O3
reactant | 2-tributylstannylbenzothiazole | 100 mg | C(CCC)[Sn](C=1SC2=C(N1)C=CC=C2)(CCCC)CCCC
product | 4-Benzothiazol-2-yl-3-{ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}phenol | 3 mg | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)O)N(CC2=CC(=C(C=C2)OCCN2CCCCC2)F)CC | C29H32FN3O2S
